US07732446B1
As described in example 1, 88 mg of [6,8-dimethoxy-4-(methyl-pyridin-3-ylmethyl-carbamoyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester was treated with HCl in EtOAc to give 102 mg (>100%) of 1-aminomethyl-6,8-dimethoxy-isoquinoline-4-carboxylic acid methyl-pyridin-3-ylmethyl-amide hydrochloride. MS: APCI (M+H) calc'd for C21H24N4O3+H 381.4; found 381.2.

reactant | [6,8-dimethoxy-4-(methyl-pyridin-3-ylmethyl-carbamoyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester | 88 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(N(CC=1C=NC=CC1)C)=O)=O | C25H30N4O5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-aminomethyl-6,8-dimethoxy-isoquinoline-4-carboxylic acid methyl-pyridin-3-ylmethyl-amide hydrochloride | 102 mg, >100% | Cl.CN(C(=O)C1=CN=C(C2=C(C=C(C=C12)OC)OC)CN)CC=1C=NC=CC1 | InChI=1S/C20H22N4O3.ClH/c1-24(12-13-5-4-6-22-10-13)20(25)16-11-23-17(9-21)19-15(16)7-14(26-2)8-18(19)27-3;/h4-8,10-11H,9,12,21H2,1-3H3;1H
